US05006157
Preparation of methyl 2-(α,α-dimethylbenzylamino)acetate
13.5 g (0.1 mol) of α,α-dimethylbenzylamine was dissolved in 200 ml of acetonitrile, and 15 g (0.11 mol) of potassium carbonate was added thereto. 15.3 g (0.1 mol) of methyl bromoacetate was gradually dropwise added thereto under cooling with ice. After completion of the dropwise addition, reaction mixture was returned to room temperature and stirred for one day and night. Salts were removed by filtration, and acetonitrile was distilled off under reduced pressure. Water was added to the residue and extracted with ethyl acetate. The ethyl acetate layer was thoroughly washed with water and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was subjected to distillation to obtain 12.1 g (yield: 60%) of the desired compound.

reactant | α,α-dimethylbenzylamine | 0.1 mol, 13.5 g | CC(C1=CC=CC=C1)(C)N | C9H13N
reactant | potassium carbonate | 0.11 mol, 15 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 0.1 mol, 15.3 g | BrCC(=O)OC | C3H5BrO2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | methyl 2-(α,α-dimethylbenzylamino)acetate | 12.1 g, yield: 60% | CC(C1=CC=CC=C1)(C)NCC(=O)OC | C12H17NO2
